US04818277
To a solution of 2-aminothiophenol (90%, 100 g, 0.72 mol) and sodium hydroxide (31.7 g, 0.792 mol) in 90% aqueous ethanol (500 ml) was added dropwise 2-bromopropane (89 g, 0.72 mol) at room temperature. When the addition was complete, the reaction mixture was refluxed for 3 hours, cooled to room temperature, and then concentrated in vacuo. The residue was diluted with water (300 ml) and extracted with ether (3×500 ml). The ether extracts were washed with water and brine, dried with MgSO4 and concentrated in vacuo to yield the crude product. Distillation through a Vigreaux column gave 2-(1-methylethylthio)benzenamine: bp 94° (2.2-2.4 mm).

reactant | 2-aminothiophenol | 0.72 mol, 100 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium hydroxide | 0.792 mol, 31.7 g | [OH-].[Na+]
reactant | 2-bromopropane | 0.72 mol, 89 g | BrC(C)C | C3H7Br
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(1-methylethylthio)benzenamine | CC(C)SC1=C(C=CC=C1)N | C9H13NS
